US07906649B2
Step A: tert-Butyl 3-[(dimethylamino)methylene]-4-oxopyrrolidine-1-carboxylate
A solution of 1-(tert-butoxylcarbonyl)-3-pyrrolidone (4.10 g) and N,N-dimethylformamide dimethyl acetal (30.0 mL) was heated to 140° C. for 1 h. The resulting mixture was cooled to room temperature and concentrated under reduced pressure. The residue was redissolved in a minimum amount of dichloromethane and triturated with hexane to yield a yellow precipitate. LC-MS 241.1 (M+1).

reactant | 1-(tert-butoxylcarbonyl)-3-pyrrolidone | 4.10 g | O(C(C)(C)C)C(=O)N1CC(CC1)=O | C9H15NO3
reactant | N,N-dimethylformamide dimethyl acetal | 30.0 mL | COC(N(C)C)OC | C5H13NO2
product | tert-Butyl 3-[(dimethylamino)methylene]-4-oxopyrrolidine-1-carboxylate | CN(C)C=C1CN(CC1=O)C(=O)OC(C)(C)C | C12H20N2O3
